US06787560B2
Azobisisobutyronitrile (0.60 g) was added to a mixture of 2-bromo-5-methoxytoluene (77.38 g, 384 mmol), 5,5-dimethy-1,3-dibromohydantoin (57.5 g, 200 mmol) and chlorobenzene (1500 mL), followed by stirring at 70° C. for 2 hours. Azobisisobutyronitrile (0.60 g) was added thereto again and stirred for another 1 hour. A 10% aqueous sodium thiosulfate solution (500 mL) was added to the reaction mixture, and the resulting mixture was washed with a saturated aqueous sodium chloride solution. The mixture washed was dried over anhydrous magnesium sulfate and then concentrated to dryness to obtain a crude product of 2-bromo-5-methoxybenzyl bromide. Thereto was added 100 mL of ice-cooled hexane to obtain a homogeneous slurry, which was filtered. The residue was washed with 100 mL of ice-cooled hexane and then dried under reduced pressure to obtain 65.75 g (235 mmol, 61.1%) of 2-bromo-5-methoxybenzyl bromide.

reactant | Azobisisobutyronitrile | 0.60 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | 2-bromo-5-methoxytoluene | 384 mmol, 77.38 g | BrC1=C(C=C(C=C1)OC)C | C8H9BrO
reactant | 5,5-dimethy-1,3-dibromohydantoin | 200 mmol, 57.5 g | CC1(C(N(C(N1Br)=O)Br)=O)C | C5H6Br2N2O2
reactant | Azobisisobutyronitrile | 0.60 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | sodium thiosulfate | 500 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chlorobenzene | 1500 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 2-bromo-5-methoxybenzyl bromide | BrC1=C(CBr)C=C(C=C1)OC | C8H8Br2O
